US07633220B2
Preparation of 2,7-dibromo-9,9-dihex-5-enyl-fluorene
2,7-dibromofluorene (5 g, 15.4 mmol) was combined with 1-bromo-5-hexene (7.5 g, 46.0 mmol) in toluene (50 mL), NaOH (50 mL, 50%, aq) and Bu4NBr (0.1 g) as a phase transfer catalyst. The mixture was heated at ca. 100° C. with stirring for 5 h. The organic layer was separated from the aqueous layer and then treated with 10% HCl and then water and then stirred the MgSO4 and carbon black. The solution was filtered and all solvents were removed in vacuo to give a brown oil, 7.83 g.

reactant | 2,7-dibromofluorene | 15.4 mmol, 5 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | 1-bromo-5-hexene | 46.0 mmol, 7.5 g | BrCCCCC=C | C6H11Br
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 50 mL | [OH-].[Na+]
catalyst | Bu4NBr | 0.1 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 2,7-dibromo-9,9-dihex-5-enyl-fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCC=C)CCCCC=C | C25H28Br2
